US04107431
Diphenylmethyl 3-(2,2,2-Trichloroethoxycarbonylvinyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate.
A suspension of 2,2,2-trichloroethyl glyoxylate monohydrate (435 mg., 1.86 mmole) in dry methylene chloride (25 ml.) was stirred at 23° and treated, over 10 minutes, with diphenylmethyl 3-(triphenylphosphoranylidenemethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate (765 mg., 1 mmole). After stirring for 45 minutes, the solvent was removed in vacuo and the residue was extracted with ethyl acetate (50 ml.); the insoluble material was filtered off and the filtrate was washed well with water (2 × 50 ml.) and brine (50 ml.), dried, and evaporated to an oil (1.07 g.). This material was purified by chromatography on 0.05-0.2mm. Kieselgel, with benzene; ethyl acetate = 10:1 as eluent. Combination of similar fractions (as judged by t.l.c.) gave the title compound (325 mg., 47%), as an amorphous white solid, m.p. 70° to 81° (decomp.), [α] - 72.2° (CHCl3), λmax. 313 nm (ε 9,300) with an inflexion at 237 nm. (ε 14,900), νmax. (CHBr3) 3415 (NH), 1789 (β-lactam), 1728 (--CO2R), and 1682 and 1510 cm.-1 (CONH); the p.m.r. spectrum (CDCl3) indicated that this compound was mainly the cis-isomer, with signals at τ 3.50 (NH, d, J 9 Hz.); 4.08 and ca. 2.60 (CH=CH), two d, JAB 12 Hz.), 4.09 (C(7) --H, dd, J 5, 9 Hz.); 4.93 (C(6) --H, d, J 5 Hz.); 5.33 (--CH2CCl3, s); 6.16 (--CH2CONH--, s); and 6.29 and 6.61 (C(2) --CH2, AB-q J 18 Hz.), together with the trans-isomer (10 to 15%) with signals at τ 3.88 and 1.96 (CH=CH, two d, J 16 Hz.) [Found: C, 53.4; H, 3.6; N, 3.8; S, 9.1; Cl, 15.25; C31H25Cl3N2O6S2 (692.0) requires C, 53.8; H, 3.6; N, 4.05; S, 9.3; Cl, 15.4%]. Rf 0.54 (Merck GF254 + 266 plates, with benzene: ethyl acetate = 5:1 for development).

reactant | 2,2,2-trichloroethyl glyoxylate monohydrate | 1.86 mmole, 435 mg | O.C(C=O)(=O)OCC(Cl)(Cl)Cl
reactant | diphenylmethyl 3-(triphenylphosphoranylidenemethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | 1 mmole, 765 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C45H37N2O4PS2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 3-(2,2,2-Trichloroethoxycarbonylvinyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | 325 mg, 47% | ClC(COC(=O)C=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O)(Cl)Cl | C31H25Cl3N2O6S2
